Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Shellfish
 
Attending: ___.
 
Chief Complaint:
Agitation
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ yo M with hx of HIV/AIDS  and AIDs 
dementia/HIV encephalopathy, TBI/Sz, HCV, and several 
psychiatric hospitalizations for impulsive behavior, 
suicidality, who presents to ___ with his brother out of 
concern for safety at home.  History is obtained through patient 
and the medical record.  The patient apparently was recently 
incarcerated for credit card fraud.  Since then he has been 
living in ___ with his brother and has been impulsive and 
dangerous, yelling at people in the streets and selling food 
stamps for drugs.  The brother states concern for his safety.  
He was hospitalized briefly at ___ for 1 day last week.  He has 
not been taking any of his medications reliably, which includes 
his HIV medications.

Per the brother reported from the consulting psychiatrist:
"He is currently living with him, although at times
he is homeless, and his brother feels it is very difficult for
him to meet his care needs. He says he recently had his brother
come to ___ in order to try to take care of him and that 
prior
to that, his brother had been living in ___ and attending some
sort of a program that recommended that he have ___ care. He
says that there were several instances in ___ where his 
brother
was ___ including pulling down his pants while in public
and asking for oral sex from a driver. He also talked about an
instance in the past where he left the stove on inadvertently
after cooking. He says that his brother was at a nursing home at
one point and started a relationship with a woman who was a
___ there, and eventually went to live
with this woman in ___. According to his brother, he ended up
going to jail for credit card fraud for a couple of years, and
was just released from jail 2 months ago. He says that his
brother had at least 30 arrests while in ___ for breaking into
cars, sometimes to steal CD's, shoplifting, and other things.
There were reportedly several times where he was found
incompetent to stand trial."

In the ED, AVSS.  He denies SI/HI.  Psych consulted.  He is now 
being hospitalized for safe discharge plan and further 
evaluation.

On the floor, he is difficult to understand, but basically 
verifies the above information.  He admits to drug use, tobacco, 
incarceration.  He has not seen a doctor in ___ yrs, and does not 
reliably take medication.  He does deny HI/SI.  He is sad that 
his father and sister passed away recently.  He denies f/c, HA, 
vision change, thrush, CP/SOB, n/v/d, dysuria, black or bloody 
BMs, rash.

10 point review of systems reviewed, otherwise negative except 
as listed above
 
Past Medical History:
HIV/AIDS with AIDs dementia/ HIV encephalopathy
 Per report last vl >200 at ___ ___
Hepatitis C
TBI due to GSW to head ___ yrs ago
 Per brother had first TBI at age ___
Seizures
Polysubstance abuse
Pneumonia
Skin graft to foot, remote
 
Social History:
___
Family History:
mother with obesity
father with drug addiction
siblings healthy as far as he knows
children healthy

 
Physical Exam:
Exam on admission
VS: T 97.7, BP 140/83, HR 86, RR 16, 99%RA
GEN: well nourished in NAD
HEENT: MMM, OP clear, anicteric sclera
NECK: supple no LAD
HEART: RRR no mrg
LUNG: CTAB no wheezes or crackles
ABD: soft NT/MD +BS no rebound or guarding
EXT: warm well perfused no edema
SKIN: no rashes or bruising
NEURO: Alert and oriented and rapid, mumbled speech and 
tangential.  He is difficult to understand and his answers are 
circumferential.  He has symmetric preserved strength throughout 
and sensation is intact.  CNII-XII intact

Exam on discharge
VS: AVSS
GEN: well nourished in NAD
HEENT: MMM, OP clear, anicteric sclera
NECK: supple no LAD
HEART: RRR no mrg
LUNG: CTAB no wheezes or crackles
ABD: soft NT/MD +BS no rebound or guarding
EXT: warm well perfused no edema
SKIN: no rashes or bruising
NEURO: Alert and oriented. Continued rapid slightly mumbled 
speech though quite audible. Some tangentiality. Able to give 
days of the week forwards and backwards. Able to relate to me 
his plan for after discharge. He has symmetric preserved 
strength throughout and sensation is intact.  CNII-XII intact. 
 
Pertinent Results:
Labs on admission
___ 03:00PM URINE  HOURS-RANDOM
___ 03:00PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 03:00PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 03:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-2* PH-6.5 
LEUK-NEG
___ 02:45PM   GLUCOSE-127* UREA N-23* CREAT-1.0 SODIUM-140 
POTASSIUM-4.4 CHLORIDE-105 TOTAL CO2-26 ANION GAP-13
___ 02:45PM   estGFR-Using this
___ 02:45PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 02:45PM   NEUTS-42.5 ___ MONOS-9.3 EOS-0.8* 
BASOS-0.5 IM ___ AbsNeut-2.62 AbsLymp-2.86 AbsMono-0.57 
AbsEos-0.05 AbsBaso-0.03
___ 02:45PM   PLT COUNT-124*

Other labs
___ 06:58AM BLOOD  WBC-5.1 Lymph-52 Abs ___ CD3%-62 
Abs CD3-1635 CD4%-32 Abs CD4-842 CD8%-27 Abs CD8-710* 
CD4/CD8-1.18
___ 06:58AM BLOOD Vit___-___ Folate-12.4
___ 06:58AM BLOOD TSH-6.2*
___ 02:45PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

Imaging
Head CT ___ Significant progression of global atrophy somewhat 
more pronounced in the frontal lobes out of proportion for 
patient's age could relate to HIV infection.
 
Brief Hospital Course:
___ yo M with HIV/AIDs, AIDs dementia/encephalopathy, TBI and Sz, 
HCV, and history of impulsive/dangerous behavior, drug use, and 
frequent incarcerations presents with his brother over safety of 
current living situation and plan of care.

# Encephalopathy:  Likely due to multiple chronic insults 
including traumatic ___ injury, chronic HIV/AIDs dementia, 
underlying Anxiety/Mood disorder, and substance abuse.  He was 
hospitalized for ongoing impulsive behavior and anxiety, though 
there was no evidence of aggressive or threatening behavior.   
He displayed hypersexuality while here, with a few episodes of 
masturbation.  

He denied focal symptoms to suggest any superimposed acute 
medical condition like infection, and laboratory workup was 
unremarkable and imaging was without acute findings.  He did 
report recent drug use as well which could have contributed to 
his initial presentation.

In light of the above, Psychiatry, ___, social work were all 
very involved in his care.  OT evaluation recommended 24 
supervision, but the patient strongly preferred to be discharged 
to the street, citing strong desire to go to ___ and get 
treatment with Healthcare for the Homeless. 

There was significant discussion between myself, prior MD, 
psychiatry, and social work.  It was thought that the best and 
safest discharge plan would have involved a group home, but this 
was not feasible.  He was denied from nearly every nursing 
facility, and would have required guardianship for the one place 
willing to take him.  There was no reasonable individual who 
could or would assume guardianship, and this was strongly 
against the patient's wishes.

As his history of the above behavior was well documented and did 
not seem markedly different that over the last few years, and 
given the inability to secure another better plan, it was 
thought that the best possible course of action was to respect 
his desire for autonomy and allow his discharge from the 
hospital.  He and his family were given resources for TBI and 
HIV programs, and the patient himself was given transportation 
to ___ along with instructions to seek care with ___.

# HIV:  He was seen by ID who felt no acute infection was at 
play. HIV VL was suppressed and it was recommended he restart 
his prior regimen once that could be confirmed.  By report, the 
patient was taking medications last a few months ago in prison, 
Stribild 1 tab daily.  He reports HIV care in ___ by Dr. ___ 
at ___. 

# Subclinical hypothyroid:  TSH 6.4.  Recommend outpatient 
repeat testing.

# Chronic HCV.  Will need outpatient follow up and possible 
treatment.

# Tobacco use: ___ packs daily. Was given nicotine patch.  
Cessation counseling provided

TRANSITIONAL ISSUES
- He needs continued HIV care, has outpatient appointment
- He needs Depakote level checked
- He needs repeat TSH/T4 for thyroid monitoring

BILLING: > 30 minutes spent coordinating discharge
 
Medications on Admission:
Not taking medications reliably at this time.

Previously on:
Clonazepam 1mg QID
Depakote, ? 1000mg BID
Gabapentin 300mg QID
Stribild 1 tab daily

Used to go to ___ on ___. in ___

 
Discharge Medications:
1. Divalproex (DELayed Release) 1000 mg PO BID 
RX *divalproex [Depakote] 500 mg 2 tablet(s) by mouth twice a 
day Disp #*60 Tablet Refills:*0
2. Gabapentin 600 mg PO TID 
RX *gabapentin 600 mg 1 tablet(s) by mouth three times daily 
Disp #*90 Tablet Refills:*0
3. Stribild 1 TAB PO DAILY 
RX *elviteg-cobi-emtric-tenofo dis [Stribild] 150 mg-150 mg-200 
mg-300 mg 1 tablet(s) by mouth daily Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Traumatic brain injury - chronic
HIV w/ possible HIV related dementia

 
Discharge Condition:
Mental Status: Confused - sometimes
Level of Consciousness: Alert and interactive
Activity Status: Ambulatory - Independent

 
Discharge Instructions:
You were admitted out of concern for your safety and ability to 
care for yourself. You were seen by psychiatry, and you were 
thought to have significant difficulties with impulsivity and 
clear thinking, likely related to prior traumatic brain injury 
as well as a possible dementia. There was much discussion 
regarding your capacity to make decisions and care for yourself, 
the options for discharge, and the potential need for 
guardianship. 

You strongly preferred to be discharged to ___ to follow 
up with Healthcare for the Homeless. It was ultimately felt that 
given your age and your ability to function previously, it would 
be reasonable to preserve your autonomy and discharge you to 
___ and Healthcare for the Homeless.

You and your brother were given information about services in 
the ___ area that would potentially be available to help take 
care of you, including services for those with HIV and those 
with traumatic brain injuries.
 
Followup Instructions:
___